US05274155
A. (S)-3-Hydroxy-4-iodobutanoic acid, methyl ester
A solution of (S)-4-Bromo-3-hydroxybutanoic acid, methyl ester (14.822 g, 75.2 mmol) in methyl ethyl ketone (255 mL) was treated with anhydrous sodium iodide (56.6 g, 376 mmol). The resulting red mixture was stirred for 23 hours under argon at a bath temperature of 92° C. The solution was allowed to cool to room temperature and the solids were filtered through celite. The receiver flask was switched and the celite bed was washed with ethyl acetate (3×50 mL). The original MEK product-rich filtrate was concentrated to approximately 60 mL. The residue was treated with the ethyl acetate wash from above followed by 250 mL of fresh ethyl acetate. The solution was washed with sodium sulfite solution (2×100 mL), brine (1×75 mL) and dried (sodium sulfate). Filtration followed by concentration in vacuo produced a yellow liquid which was evaporated several times from hexane and dried under high vacuum (5 mm) to 15.48 g (84%).

reactant | (S)-4-Bromo-3-hydroxybutanoic acid, methyl ester | 75.2 mmol, 14.822 g | BrC[C@H](CC(=O)OC)O | C5H9BrO3
reactant | sodium iodide | 376 mmol, 56.6 g | [I-].[Na+]
solvent | methyl ethyl ketone | 255 mL | C(C)C(=O)C | C4H8O
product | (S)-3-Hydroxy-4-iodobutanoic acid, methyl ester | O[C@@H](CC(=O)OC)CI | C5H9IO3
